US06162811
1-[(2-Dimethylaminoethyl)aminocarbonyl]-5,6-dimethyl-9-(pyrid-3-ylcarbonyloxy)-6H-pyrido[4,3-b]carbazole.
A mixture containing 3 g of 1-[(2-dimethylaminoethyl)aminocarbonyl]-5,6-dimethyl-9-hydroxy-6H-pyrido[4,3-b]carbazole, 1.5 g of nicotinic acid, 3.7 g of dicyclohexylcarbodiimide and 1.5 g of dimethylaminopyridine dissolved in 100 ml of pyridine is stirred at room temperature for 16 hours. At the end of 16 hours, a further 2 g of dicyclohexylcarbodiimide and 0.75 g of nicotinic acid are added and the mixture is stirred for a further 24 hours and concentrated to dryness. The residue is taken up in dichloromethane and washed with sodium hydrogen carbonate, and the dichloromethane phase is concentrated to remove by filtration as much as possible of the dicyclohexylurea formed, and the filtrate is concentrated to dryness. The residue is chromatographed on silica using a mixture of toluene, ethanol and triethylamine (100:10:05) as eluant. 3.5 g of the desired product are obtained, m.p. (cap): 190-192° C.

reactant | 1-[(2-dimethylaminoethyl)aminocarbonyl]-5,6-dimethyl-9-hydroxy-6H-pyrido[4,3-b]carbazole | 3 g | CN(CCNC(=O)C1=NC=CC2=C(C=3N(C=4C=CC(=CC4C3C=C21)O)C)C)C | C22H24N4O2
reactant | nicotinic acid | 1.5 g | C(C1=CN=CC=C1)(=O)O | C6H5NO2
reactant | dicyclohexylcarbodiimide | 3.7 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | dimethylaminopyridine | 1.5 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | dicyclohexylcarbodiimide | 2 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | nicotinic acid | 0.75 g | C(C1=CN=CC=C1)(=O)O | C6H5NO2
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | 1-[(2-Dimethylaminoethyl)aminocarbonyl]-5,6-dimethyl-9-(pyrid-3-ylcarbonyloxy)-6H-pyrido[4,3-b]carbazole | 3.5 g | CN(CCNC(=O)C1=NC=CC2=C(C=3N(C=4C=CC(=CC4C3C=C21)OC(=O)C=2C=NC=CC2)C)C)C | C28H27N5O3
